US07618975B2
(2-Chloro-quinazolin-4-yl)-(3,4-methylenedioxyphenyl)-methyl-amine
(2-Chloro-quinazolin-4-yl)-(3,4-methylenedioxyphenyl)-amine: The title compound was prepared from 3,4-methylenedioxyphenylamine and 2,4-dichloroquinazoline by a procedure similar to example 1b and was isolated as solids (45% yield). 1H NMR (CDCl3): 7.81-7.83 (m, 3H), 7.51-7.56 (m, 2H), 7.44 (d, 1H, J=2.1), 6.98 (dd, 1H, J=2.1, 8.1), 6.82 (d, 1H, J=8.1), 6.01 (s, 2H).

reactant | (2-Chloro-quinazolin-4-yl)-(3,4-methylenedioxyphenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC2=C(C=C1)OCO2 | C15H10ClN3O2
reactant | 3,4-methylenedioxyphenylamine | C1OC=2C=C(C=CC2O1)N | C7H7NO2
reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
product | (2-Chloro-quinazolin-4-yl)-(3,4-methylenedioxyphenyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC2=C(C=C1)OCO2 | C16H12ClN3O2
